US05015640
starting from ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate and 2-chloroethyl chloroformate, there is obtained ethyl N-(2-chloroethoxycarbonyl)-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate as an oil, mass spectrum m/e: M+ 372 (4), 343 (12), 293 (10), 263 (72), 194 (100), 178 (86), 165 (79);

reactant | ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCC)=N | C17H18N2O
reactant | 2-chloroethyl chloroformate | ClC(=O)OCCCl | C3H4Cl2O2
product | ethyl N-(2-chloroethoxycarbonyl)-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | ClCCOC(=O)N=C(OCC)N1CC2=C(C3=C(C1)C=CC=C3)C=CC=C2 | C20H21ClN2O3
